US07960419B2
To a dry flask containing (R,R)—N-[3-(4-hydroxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropanecarboxamide (100 mg, 0.347 mmol) is added dry acetone (2 mL), K2CO3 (50 mg, 0.347 mmol), and methyl iodide (19 μL, 0.313 mmol). The reaction mixture is heated 16 h at 45° C. and treated with additional methyl iodide (19 μL, 0.313 mmol). After heating for another 6 h, the solvent is evaporated, and the residue is partitioned between ethyl acetate and water. The ethyl acetate solution is washed (satd aqueous K2CO3 (twice) and brine), dried (MgSO4), and the solvent evaporated. Chromatography over silica gel, eluting with EtOAc/hexanes, affords (R,R)—N-[3-(4-methoxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropane-carboxamide (35 mg, 33%) as a white solid. 1H NMR; ES-MS: m/e 303 (m+1).

reactant | (R,R)—N-[3-(4-hydroxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropanecarboxamide | 0.347 mmol, 100 mg | OC1=CC=C(C=C1)C1=NSC(=C1C)NC(=O)[C@H]1[C@@H](C1)C | C15H16N2O2S
reactant | K2CO3 | 0.347 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.313 mmol, 19 μL | CI | CH3I
reactant | methyl iodide | 0.313 mmol, 19 μL | CI | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | (R,R)—N-[3-(4-methoxyphenyl)-4-methylisothiazol-5-yl]-2-methylcyclopropane-carboxamide | 35 mg, 33% | COC1=CC=C(C=C1)C1=NSC(=C1C)NC(=O)[C@H]1[C@@H](C1)C | C16H18N2O2S
